US04239903
2.5 g of N-ethyl-N-{4-[3,4-bis(benzyloxy)benzoyloxy]-butyl}-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride, 70 ml of water, 70 ml of ethanol and 0.5 g of a 5% palladium on carbon were mixed and reduced catalytically at a usual temperature under usual pressure. After absorption of the theoretical amount of hydrogen, the palladium on carbon catalyst was removed by filtration. The filtrate was concentrated under reduced pressure to obtain 1.5 g of N-ethyl-N-[4-(3,4-dihydroxybenzoyloxy)butyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride as a colorless resinous material.

reactant | N-ethyl-N-{4-[3,4-bis(benzyloxy)benzoyloxy]-butyl}-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride | 2.5 g | Cl.C(C)N(CCCCOC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)C1CC2=CC=C(C=C2CC1)OC
reactant | water | 70 ml | O | H2O
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | N-ethyl-N-[4-(3,4-dihydroxybenzoyloxy)butyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride | 1.5 g | Cl.C(C)N(CCCCOC(C1=CC(=C(C=C1)O)O)=O)C1CC2=CC=C(C=C2CC1)OC | InChI=1S/C24H31NO5.ClH/c1-3-25(20-9-6-18-15-21(29-2)10-7-17(18)14-20)12-4-5-13-30-24(28)19-8-11-22(26)23(27)16-19;/h7-8,10-11,15-16,20,26-27H,3-6,9,12-14H2,1-2H3;1H
